US07470713B2
(S)-4-(2-(3-chlorophenyl)-2-hydroxyethylamino)-3-(4-methyl-5-(morpholinomethyl)-1H-imidazol-2-yl)pyridin-2(1H)-one:
4-((2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)methyl)morpholine (0.008 g, 0.019 mmol) was dissolved in acetic acid (2 mL) and concentrated hydrochloric acid (2 mL) and this mixture was stirred at 90° C. for 2 hours. The mixture was then evaporated and the residue was dissolved in 1-methyl-2-pyrrolidone (4 mL) and treated with triethylamine (100 μL, 0.72 mmol) and the hydrochloric acid salt of (S)-2-amino-1-[3-chlorophenyl]ethanol (0.010 g, 0.048 mmol). The mixture was heated at 90° C. for 4 hours, then the solvent was evaporated and the residue was purified by Prep HPLC (ammonium acetate/acetonitrile/water) to give the title compound (0.001 g, 11%) as a white solid. HPLC<95% (220 nm), LCMS (+ESI, M+H+) m/z 444; 1H NMR (400 MHz, methanol-d4) δ (ppm): 2.21 (3H, br s), 2.56 (˜4H, br s), 3.46 (2H, br s), 3.49 (1H, dd, J=6.8 and 13.6 Hz), 3.55 (1H, dd, J=5.3 and 13.6 Hz), 3.61 (4H, br s), 4.79-4.84 (1H, m overlapped by D2O), 6.08 (1H, d, J=7.3 Hz), 7.06 (1H, d, J=7.6 Hz), 7.16 (1H, dt, J=8.4 and 1.8 Hz), 7.20 (1J, t, J=7.7 Hz), 7.27 (1H, br d, J=8.3 Hz), 7.39 (1H, br s).

reactant | 4-((2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)methyl)morpholine | 0.019 mmol, 0.008 g | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)CN1CCOCC1 | C15H19IN4O2
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | triethylamine | 0.72 mmol, 100 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-amino-1-[3-chlorophenyl]ethanol | 0.048 mmol, 0.010 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (S)-4-(2-(3-chlorophenyl)-2-hydroxyethylamino)-3-(4-methyl-5-(morpholinomethyl)-1H-imidazol-2-yl)pyridin-2(1H)-one | 0.001 g, 11% | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)C)CN1CCOCC1)O | C22H26ClN5O3
